US07601674B2
A mixture of glyoxylic acid monohydrate (4.6 g, 50 mmol) and 4-chloroacetophenone (15.4 g, 0.1 mol) are heated at +95° C. under reduced pressure (50 mbar) for 3 hours. During this time, water is continually removed. After cooling, the reaction mixture is taken up in aqueous sodium carbonate solution and extracted with diethyl ether. The aqueous layer is acidified with 15% hydrochloric acid and extracted with ethyl acetate. The organic layer is dried over sodium sulfate and evaporated, the residue is crystallized from ethyl acetate/hexane to obtain 4-(4-chloro-phenyl)-2-hydroxy-4-oxo-butyric acid.

reactant | glyoxylic acid monohydrate | 50 mmol, 4.6 g | O.C(C=O)(=O)O
reactant | 4-chloroacetophenone | 0.1 mol, 15.4 g | CC(=O)C1=CC=C(C=C1)Cl | C8H7ClO
product | 4-(4-chloro-phenyl)-2-hydroxy-4-oxo-butyric acid | ClC1=CC=C(C=C1)C(CC(C(=O)O)O)=O | C10H9ClO4
